US05521192
Under a nitrogen atmosphere a stirred solution of 0.85 gram (0.003 mole) of 1-ethoxy-2-cyano-5-(naphth-1-yl)-1-pentene, 1.22 grams (0.013 mole) of guanidine hydrochloride, and 2.65 grams (0.019 mole) of potassium carbonate in 20 mL of N,N-dimethylformamide was heated at 110° C. for 20 hours. After this time the reaction mixture was analyzed by thin layer chromatography (TLC) which indicated the reaction was not complete. The reaction mixture was warmed to 125° C. where it was stirred for six hours. TLC analysis of the reaction mixture after this time indicated that the reaction was still not complete. An additional 10 mL of dimethylformamide was added, and the reaction mixture was stirred at 125° C. for an additional 64 hours. The reaction mixture was then poured into water, and the mixture was extracted with two 100 mL portions of ethyl acetate. The combined extracts were concentrated under reduced pressure, yielding a yellow solid. The solid was triturated with dichloromethane. The solid was collected by filtration and subjected to column chromatography on silica gel. Elution was accomplished with 10:1 methylene chloride and methanol. The eluate was concentrated under reduced pressure, yielding 0.30 gram of 2,4-diamino-5-[3-(naphth-1-yl)propyl]pyrimidine, mp 179°-181° C. The NMR spectrum was consistent with the proposed structure.

reactant | 1-ethoxy-2-cyano-5-(naphth-1-yl)-1-pentene | 0.003 mole, 0.85 gram | C(C)OC=C(CCCC1=CC=CC2=CC=CC=C12)C#N | C18H19NO
reactant | guanidine hydrochloride | 0.013 mole, 1.22 grams | Cl.NC(=N)N
reactant | potassium carbonate | 0.019 mole, 2.65 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2,4-diamino-5-[3-(naphth-1-yl)propyl]pyrimidine | 0.30 gram | NC1=NC=C(C(=N1)N)CCCC1=CC=CC2=CC=CC=C12 | C17H18N4
